* BFQ236A SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT223A DIE MODEL : BFQ234
* 1: COLLECTOR; 2: BASE; 3: EMITTER;
.SUBCKT BFQ236A 1 2 3
Q1 6 5 7 7 BFQ234
* SOT223A parasitic model
               Lb  4 5 1.5n 
               Le  7 8 .5n
               L1  2 4 .025n
               L2  1 6 1.19n
               L3  3 8 .6n
              Ccb  4 6 16f
              Cbe  4 8 182f
*
* PHILIPS SEMICONDUCTORS                                     Version:   1.0
* Filename:   BFQ234.PRM                                     Date: Feb 1992
*
.MODEL  BFQ234   NPN
+              IS = 1.58441E-015
+              BF = 4.20358E+001
+              NF = 9.91976E-001
+             VAF = 2.20638E+002
+             IKF = 2.00000E+002
+             ISE = 8.19560E-014
+              NE = 1.43769E+000
+              BR = 1.00000E+000
+              NR = 1.00000E+000
+             VAR = 3.00000E+000
+              NC = 2.00000E+000
+              RB = 5.00000E+000
+             IRB = 1.00000E-006
+             RBM = 5.00000E+000
+              RE = 1.29939E+000
+              RC = 8.00000E+000
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 1.83381E-011
+             VJE = 6.00000E-001
+             MJE = 2.76425E-001
+              TF = 7.00000E-011
+             XTF = 5.00000E+001
+             VTF = 1.00000E+000
+             ITF = 3.50000E-001
+             PTF = 2.00000E+001
+             CJC = 3.09282E-012
+             VJC = 4.45253E-001
+             MJC = 3.43258E-001
+            XCJC = 2.10000E-001
.ENDS

